### PR TITLE
[Merged by Bors] - doc: Improve `Field`'s fields docstrings

### PR DESCRIPTION
**Pull request by YaelDillies**
Reduce the diff of #11203

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Field/Defs.lean [hunk 1]
```diff
@@ -47,61 +45,83 @@ a `GroupWithZero` lemma instead.
 field, division ring, skew field, skew-field, skewfield
 -/
 
+-- `NeZero` should not be needed in the basic algebraic hierarchy.
+assert_not_exists NeZero
+
+-- Check that we have not imported `Mathlib.Tactic.Common` yet.
+assert_not_exists Mathlib.Tactic.LibrarySearch.librarySearch
```
Comment (j-loreaux) [inline Mathlib/Algebra/Field/Defs.lean:52]: seems like a strange way to test for this, especially because something like that might move to `Std` at some point. (EDIT: nevermind, I see you just pulled this from the bottom of the file. Is there a reason for moving it?)

File: Mathlib/Algebra/Field/Defs.lean [hunk 2]
```diff
@@ -47,61 +45,83 @@ a `GroupWithZero` lemma instead.
...
-  protected ratCast_mk : ∀ (a : ℤ) (b : ℕ) (h1 h2), Rat.cast ⟨a, b, h1, h2⟩ = a * (b : K)⁻¹ := by
-    intros
-    rfl
-  /-- Multiplication by a rational number.
-  Set this to `qsmulRec _` unless there is a risk of a `Module ℚ _` instance diamond. -/
-  protected qsmul : ℚ → K → K
-  /-- However `qsmul` is defined,
-  propositionally it must be equal to multiplication by `ratCast`. -/
-  protected qsmul_eq_mul' : ∀ (a : ℚ) (x : K), qsmul a x = Rat.cast a * x := by
+  /-- However `Rat.cast` is defined, it must be equal to `a * b⁻¹`.
```
Comment (j-loreaux) [inline Mathlib/Algebra/Field/Defs.lean:110]:
```suggestion
  /-- However `Rat.cast` is defined, it must be propositionally equal to `a * b⁻¹`.
```

File: Mathlib/Algebra/Field/Defs.lean [hunk 3]
```diff
@@ -47,61 +45,83 @@ a `GroupWithZero` lemma instead.
...
+  Do not use this lemma directly. Use `Rat.cast_def` instead. -/
+  protected ratCast_mk : ∀ (a : ℤ) (b : ℕ) (h1 h2), Rat.cast ⟨a, b, h1, h2⟩ = a * (b : α)⁻¹ := by
     intros
     rfl
+  /-- Scalar multiplication by a rational number.
+
+  Set this to `qsmulRec _` unless there is a risk of a `Module ℚ _` instance diamond.
+  Do not use directly. Instead use the `•` notation. -/
+  protected qsmul : ℚ → α → α
+  /-- However `qsmul` is defined, it must be equal to multiplication by `Rat.cast`.
```
Comment (j-loreaux) [inline Mathlib/Algebra/Field/Defs.lean:121]:
```suggestion
  /-- However `qsmul` is defined, it must be equal to propsitionally multiplication by `Rat.cast`.
```

File: Mathlib/Algebra/Field/Defs.lean [hunk 4]
```diff
@@ -47,61 +45,83 @@ a `GroupWithZero` lemma instead.
...
+  /-- However `Rat.cast` is defined, it must be equal to `a * b⁻¹`.
+
+  Do not use this lemma directly. Use `Rat.cast_def` instead. -/
+  protected ratCast_mk : ∀ (a : ℤ) (b : ℕ) (h1 h2), Rat.cast ⟨a, b, h1, h2⟩ = a * (b : α)⁻¹ := by
     intros
     rfl
+  /-- Scalar multiplication by a rational number.
+
+  Set this to `qsmulRec _` unless there is a risk of a `Module ℚ _` instance diamond.
+  Do not use directly. Instead use the `•` notation. -/
```
Comment (j-loreaux) [inline Mathlib/Algebra/Field/Defs.lean:119]: I don't think we want to explicitly advocate for the default values.

File: Mathlib/Algebra/Field/Defs.lean [hunk 5]
```diff
@@ -156,32 +183,5 @@ theorem smul_one_eq_coe (A : Type*) [DivisionRing A] (m : ℚ) : m • (1 : A) =
 
 end Rat
 
-end DivisionRing
-
-section OfScientific
-
 instance RatCast.toOfScientific [RatCast K] : OfScientific K where
   ofScientific (m : ℕ) (b : Bool) (d : ℕ) := Rat.ofScientific m b d
```
Comment (j-loreaux) [inline Mathlib/Algebra/Field/Defs.lean:187]: Note for this PR: is it possible to have an `ofScientific` instance for `ℚ≥0` (or types with an `NNRatCast` instance)? I guess it would probably require interpreting `-1.2` as `1.2`.

**Review by j-loreaux — COMMENTED** [review]
A few minor comments.

File: Mathlib/Algebra/Field/Defs.lean (hunk 1 above)
Comment (YaelDillies) [reply Mathlib/Algebra/Field/Defs.lean:52]: The reason is that the content of a file doesn't change whether an `assert_not_exists` in it succeeds or not, so we might as well put it as early as possible.

I believe @semorrison started by putting them at the end, but eventually decided to put them first.

File: Mathlib/Algebra/Field/Defs.lean (hunk 4 above)
Comment (YaelDillies) [reply Mathlib/Algebra/Field/Defs.lean:119]: Nono, this is not advocating for default values. This is saying that people shouldn't be writing `DivisionRing.qsmul q a` but `q • a`

File: Mathlib/Algebra/Field/Defs.lean (hunk 5 above)
Comment (YaelDillies) [reply Mathlib/Algebra/Field/Defs.lean:187]: I think that would be a big trap. Certainly if people want it they can add it, but I won't do so myself

File: Mathlib/Algebra/Field/Defs.lean (hunk 4 above)
Comment (j-loreaux) [reply Mathlib/Algebra/Field/Defs.lean:119]: No, above that it says, "Set this to `qsmulRec` unless ..."

Comment (YaelDillies) [reply Mathlib/Algebra/Field/Defs.lean:119]: Oh, I didn't write that. @eric-wieser just added it in #11262

**Comment by j-loreaux** [comment]
bors merge
